

*--------------------------------------------------------------
* Declaracao fonte DC (source signal)
*--------------------------------------------------------------
*vfonte buffer
*Vvdd1 vdd1 gnd 0.3
Vvdd1 vdd1 gnd 0.7

*fonte circuito
*Vvdd2 vdd2 gnd 0.3
Vvdd2 vdd2 gnd 0.7

*fonte carga
*Vvdd3 vdd3 gnd 0.3
Vvdd3 vdd3 gnd 0.7


Va a gnd 0
Vb b gnd 1

*Va a gnd PWL (0ns 0 8ns 0)
*Vb b gnd PWL (0ns 0.7 8ns 0.7)


*Va a gnd PWL (0ns 0 4ns 0 4.01ns 0.7 8ns 0.7 8.01ns 0)
*Vb b gnd PWL (0ns 0 4ns 0 4.01ns 0.7 8ns 0.7 8.01ns 0)

*Vb b gnd PWL (0ns 0.7 4ns 0.7 4.01ns 0 8ns 0 8.01ns 0.7)
